US09301951B2
Intermediate 201b: (S)-benzyl (2-(2-(2,5,8,11,14,17,20,23-octaoxapentacosan-25-ylcarbamoyl)piperidin-1-yl)ethyl)(methyl)carbamate
To a mixture of (S)-1-(2-(((benzyloxy)carbonyl)(methyl)amino)ethyl)piperidine-2-carboxylic acid (0.145 mmol, 46.4 mg), 2,5,8,11,14,17,20,23-octaoxapentacosan-25-amine (0.145 mmol, 55.6 mg), DIEA (0.725 mmol, 94 mg) in DMF (0.3 mL) was added HATU (0.16 mmol, 61 mg). The mixture was stirred at 60° C. for 1 h. The crude mixture was used in next step without purification.

reactant | (S)-1-(2-(((benzyloxy)carbonyl)(methyl)amino)ethyl)piperidine-2-carboxylic acid | 0.145 mmol, 46.4 mg | C(C1=CC=CC=C1)OC(=O)N(CCN1[C@@H](CCCC1)C(=O)O)C | C17H24N2O4
reactant | 2,5,8,11,14,17,20,23-octaoxapentacosan-25-amine | 0.145 mmol, 55.6 mg | COCCOCCOCCOCCOCCOCCOCCOCCN | C17H37NO8
reactant | DIEA | 0.725 mmol, 94 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.16 mmol, 61 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 0.3 mL | CN(C)C=O | C3H7NO
product | (S)-benzyl (2-(2-(2,5,8,11,14,17,20,23-octaoxapentacosan-25-ylcarbamoyl)piperidin-1-yl)ethyl)(methyl)carbamate | COCCOCCOCCOCCOCCOCCOCCOCCNC(=O)[C@H]1N(CCCC1)CCN(C(OCC1=CC=CC=C1)=O)C | C34H59N3O11
